Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:2](=[O:3])=[C:4]([H:10])[H:11].[N:1]([N:7]([C:6](=[O:5])[H:12])[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],36.32903486938919
[C:1]1([H:7])([H:8])[O:2][C:3]([H:10])([H:11])[C:4]1=[O:5].[C:6]([H:9])([H:12])([H:13])[H:14]>>[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],73.43852430275099
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1](=[N:2]/[C:3](=[N:4]/[H:10])[C:5](=[O:6])[H:12])([H:7])[H:8].[H:9][H:11],49.33841471328171
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C@@:5]1([C:6](=[C:7]([H:16])[H:17])[H:15])[H:14])([H:8])([H:9])[H:10],57.555374491596794
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2]=[C:6]([O:7])[H:10])[H:8].[O:3]=[C:4]([O:5])[H:9],56.40435855318072
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:18].[C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12].[C:5](=[C:6]([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17],96.9572296291456
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N:1]#[C:2]/[C:3](=[C:4](/[C:5]([O:6][H:9])([H:10])[H:11])[H:8])[H:7],83.4507430432773
[C:1]([C:2]([O:3][N:7]=[C:6]=[C:4]=[N:5][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],28.28196534851419
[C:1](=[C:2]1[O:3][N:6]([H:11])[C:5]([H:8])([H:10])[O:4]1)([H:7])[H:9]>>[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9],32.87583993008048
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:11])[H:12])([H:10])[H:13],84.5291063792688
[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]1[C@@:2]([C:5]#[C:6][H:10])([H:8])[C:3][C:4]1([H:7])[H:9],87.06217377030309
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8]>>[O:1]([C:2]([C:7](=[N:6][C:5](=[O+:4][C-:3]([H:10])[H:11])[H:12])[H:13])([H:9])[H:14])[H:8],97.9644324518776
[O:1]([C+:2]([C:3](=[C-:4][H:8])[H:7])[H:6])[H:5]>>[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5],30.23239997022189
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([O:5]/[C:6](=[N:7]/[H:16])[H:10])([H:14])[H:15])([H:8])[H:9],94.567455819056
[C:1]([C@:2]1([H:11])[C@:3]([O:4][H:13])([H:12])[C:5][C:6]1([H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],25.971964372006873
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]12[C:5]([H:15])([H:16])[C@:6]2([C:7][H:17])[H:14])([H:8])([H:9])[H:10],88.4384565374441
[O:1]1[C:2]([H:9])([H:10])[C:3][C@@:4]1([C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],28.930236378931696
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][c:5]1[c:3](=[O:4])[c:6]1[H:10])([H:7])([H:8])[H:9],58.990787344912704
[O-:1][O+:6]=[C:5]([C:4]1=[C:3]=[C:2]1[H:7])[H:8]>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],9.955881957561019
[N:1]12[C:2]([H:8])([H:9])[O:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[N:7]2>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],36.4826827182142
[C:3](=[O:4])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:11].[N:1](=[C:2])[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],23.0148237592375
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[C:4](=[O:5])([C:6]#[N:7])[H:9].[N:1](=[C:2]=[O:3])[H:8],44.8736065986201
[C-:4]#[O+:5].[C:1]([N:2]([C:3]([H:9])([H:10])[H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[O:5])[H:12])([H:6])([H:7])[H:8],52.6965716119137
[C:1]([C:2](/[C:3](=[C:4]1/[C:5]([H:14])([H:15])[O:6]1)[H:12])([C:7]([H:13])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],112.69730328602996
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C-:1]([N+:2](=[C:3]([N:4]([H:8])[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])[H:9],49.7682571066018
[C:1]([O:2][c:5]1[c:3](=[O:4])[c:6]1[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],44.4728311295016
[N:1]#[C:2][C:3]([C:4]#[N:5])([H:6])[H:7]>>[N:1](=[C:2]=[C:3]([C:4]#[N:5])[H:6])[H:7],70.270418933995
